US08242153B2
To (S)-4-[3-(4-chloro-phenyl)-3-hydroxy-prop-1-ynyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (3.10 g) was added dropwise iodomethane (5.27 ml). To the resulting yellow solution was added silver oxide (5.89 g) and the mixture was heated at 70° C. for 2 h. The reaction mixture was then cooled to room temperature and concentrated in vacuo. The residue was purified by column chromatography (SiO2; gradient: heptane/EtOAc) to give (S)-4-[3-(4-chloro-phenyl)-3-methoxy-prop-1-ynyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (2.44 g, 76%) as a colourless oil. MS (ISP): 399.2 ([{37Cl}M+NH4]+), 397.2 ([{35Cl}M+NH4]+).

reactant | (S)-4-[3-(4-chloro-phenyl)-3-hydroxy-prop-1-ynyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 3.10 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C#CC(O)C1=CC=C(C=C1)Cl)(C)C | C19H24ClNO4
reactant | iodomethane | 5.27 ml | IC | CH3I
catalyst | silver oxide | 5.89 g | [Ag]=O
product | (S)-4-[3-(4-chloro-phenyl)-3-methoxy-prop-1-ynyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 2.44 g, 76% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C#CC(OC)C1=CC=C(C=C1)Cl)(C)C | C20H26ClNO4
